US05849961
Phenanthrene is sulfonated with concentrated sulfuric acid and then treated with barium chloride to obtain barium 2-phenanthrenesulfonate. The resulting barium salt is subjected to alkali fusion in an electric oven and then treated with hydrochloric acid to obtain 2-phenanthrol. 2-Phenanthrol is subjected to oxidative coupling in the presence of a copper-amine complex to synthesize racemic 1,1'-biphenanthryl-2,2'-diol (I). The resulting diol is reacted with optically active phenylethylamine and thiophosphoryl chloride to afford (±)-N((S)-1-phenylethyl)-1,1'-biphenanthryl-2,2'-diylthiophosphorylamide. Recrystallization of the racemate gives an optically active compound, which is then hydrogenolyzed with a reducing agent, such as lithium aluminum hydride, to give optically active 1,1'-biphenanthryl-2,2'-diol with an optical purity reaching nearly 100%.

reactant | Phenanthrene | C1=CC=CC=2C3=CC=CC=C3C=CC12 | C14H10
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | barium chloride | [Cl-].[Ba+2].[Cl-]
product | barium 2-phenanthrenesulfonate | C1=C(C=CC=2C3=CC=CC=C3C=CC12)S(=O)(=O)[O-].[Ba+2].C1=C(C=CC=2C3=CC=CC=C3C=CC12)S(=O)(=O)[O-] | InChI=1S/2C14H10O3S.Ba/c2*15-18(16,17)12-7-8-14-11(9-12)6-5-10-3-1-2-4-13(10)14;/h2*1-9H,(H,15,16,17);/q;;+2/p-2
